US05696112
4-(4-Aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine
A solution of 9.97 g of 4-(4-nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine in 110 ml of glacial acetic acid and 0.997 g of 10% palladium-on-carbon is hydrogenated in a Parr hydrogenator under 30-50 lb. of pressure for 4.5 hours. The mixture is filtered through a pad of diatomaceous earth and the filtrate concentrated to dryness under vacuum. The gummy residue (8.1 g) is purified by HPLC on a Waters-Prep-500 instrument with silica gel and ethyl acetate-hexane (1:1) as solvent. Fractions containing product are combined and the solvent removed. The residue is crystallized to give 4.0 g of crystals, m.p. 168°-172° C.

reactant | 4-(4-nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 9.97 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C15H14N2O3S
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 0.997 g | [Pd] | Pd
product | 4-(4-Aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 4.0 g | NC1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C15H16N2OS
